US06441236B1
4,4-dimethoxypentane-2,3-dione 3(E)-(O-methyloxime) (Tab.1, III.1)
4.3 g (0.03 mol) of pentane-2,3,4-trione 3-(O-methyloxime) and 6.2 g (0.06 mol) of trimethyl orthoformate were dissolved in 15 ml of methanol and admixed with a spatula tip of p-toluenesulfonic acid. The mixture was subsequently stirred at 50° C. for 5 h, after which the solvent was distilled off. This gave 5.5 g of an oil (98% yield) (phys. data see Tab. 1).

reactant | pentane-2,3,4-trione 3-(O-methyloxime) | 0.03 mol, 4.3 g | CON=C(C(C)=O)C(C)=O | C6H9NO3
reactant | trimethyl orthoformate | 0.06 mol, 6.2 g | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 15 ml | CO | CH4O
product | 4,4-dimethoxypentane-2,3-dione 3(E)-(O-methyloxime) | 5.5 g, 98% yield | CO\N=C(/C(C)=O)\C(C)(OC)OC | C8H15NO4
